*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXA160ARA151MJ80G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXA160ARA151MJ80G_20deg-C 1 2

C1 4 2 8.18e-05
C2 5 2 3.01e-05
C3 6 2 2.20e-05
R1 3 4 1.42e-02
R2 4 5 5.45e-02
R3 5 6 1.09e+00
L1 1 3 4.20e-09

.ENDS
